US08648074B2
2-(benzylthio)-6-tert-butylpyridine
To a solution of benzyl mercaptan (0.22 mL, 1.87 mmol) in anhydrous N,N-dimethylformamide (10 mL) was added a 1.0 M solution of potassium tert-butoxide in tetrahydrofuran (1.87 mL, 1.87 mmol) dropwise over 2 minutes. To the resulting suspension was added 2-bromo-6-tert-butylpyridine (0.20 g, 0.93 mmol), and the resulting mixture was stirred at 50° C. for 16 hours. The cooled mixture was poured into water (50 mL) and extracted with ethyl acetate (50 mL), and the ethyl acetate layer was dried over Na2SO4, filtered and concentrated in vacuo to give a crude product. Purification by column chromatography on silica gel using hexanes gave the titled compound. 1H NMR (300 MHz, CDCl3) δ ppm 1.35 (s, 9H), 4.50 (s, 2H), 6.93-7.03 (m, 2H), 7.17-7.45 (m, 6H); MS (APCI) m/z 258.3 (M+H)+.

reactant | benzyl mercaptan | 1.87 mmol, 0.22 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | tetrahydrofuran | 1.87 mmol, 1.87 mL | O1CCCC1 | C4H8O
reactant | 2-bromo-6-tert-butylpyridine | 0.93 mmol, 0.20 g | BrC1=NC(=CC=C1)C(C)(C)C | C9H12BrN
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | 2-(benzylthio)-6-tert-butylpyridine | C(C1=CC=CC=C1)SC1=NC(=CC=C1)C(C)(C)C | C16H19NS
